US08227500B2
4-Phenyl-1-[4-(1H-tetrazole-5-yl)pyridine-2-yl]-1H-pyrrole-3-carbonitrile
To a solution of 2-(3-cyano-4-phenylpyrrole-1-yl)isonicotinamide (0.058 g) and sodium azide (0.039 g) in a mixed solvent of acetonitrile (1.0 mL) and tetrahydrofuran (0.5 mL) was added tetrachlorosilane (0.068 g) at room temperature, and this mixture was stirred at 80° C. overnight. To this reaction mixture was added water, this obtained solid was collected by filtration. After washing with water, this solid was dried at 50° C. under reduced pressure to give the title compound (0.051 g).

reactant | 2-(3-cyano-4-phenylpyrrole-1-yl)isonicotinamide | 0.058 g | C(#N)C1=CN(C=C1C1=CC=CC=C1)C=1C=C(C(=O)N)C=CN1 | C17H12N4O
reactant | sodium azide | 0.039 g | [N-]=[N+]=[N-].[Na+]
reactant | acetonitrile | 1.0 mL | C(C)#N | C2H3N
reactant | tetrachlorosilane | 0.068 g | Cl[Si](Cl)(Cl)Cl | Cl4Si
solvent | water | O | H2O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 4-Phenyl-1-[4-(1H-tetrazole-5-yl)pyridine-2-yl]-1H-pyrrole-3-carbonitrile | 0.051 g | C1(=CC=CC=C1)C=1C(=CN(C1)C1=NC=CC(=C1)C1=NN=NN1)C#N | C17H11N7
